US05683623
(2,3-Difluorophenyl)decan-1-ol
Quantities: n-butyllithium (30 cm3, 10.0M in hexanes, 0.3 mol), decanal (47 g, 0.3 mol) and 1,2-difluorobenzene (34.5 g, 0.3 mol). The experimental procedure was as described in Example 16.

reactant | n-butyllithium | 0.3 mol, 10.0M, 30 cm3 | C(CCC)[Li]
reactant | decanal | 0.3 mol, 47 g | C(CCCCCCCCC)=O | C10H20O
reactant | 1,2-difluorobenzene | 0.3 mol, 34.5 g | FC1=C(C=CC=C1)F | C6H4F2
product | (2,3-Difluorophenyl)decan-1-ol | FC1=C(C=CC=C1F)C(CCCCCCCCC)O | C16H24F2O
